US08003785B2
A mixture of 0.0605 g (0.20 mmole) 2-chloro-9-cyclobutyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-1), 0.0571 g (0.30 mmole) of toluenesulfonic acid monohydrate, 0.0555 g (0.20 mmole) of 4-amino-N-(1-ethyl-piperidin-4-yl)-3-methoxy-benzamide and 1 mL of isopropanol was heated in a sealed vessel at 140 degrees for 25 hours, cooled and concentrated under reduced pressure. The residue taken up in ethyl acetate and washed successively with 50 mL of saturated aqueous sodium bicarbonate, 50 mL of water, 50 mL of brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with acetonitrile-methanol-triethylamine (90:10:1) and then recrystallization from acetonitrile to give 0.0452 g of 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-ethyl-piperidin-4-yl)-3-methoxy-benzamide (I-10) as a white solid.

reactant | 2-chloro-9-cyclobutyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.20 mmole, 0.0605 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCC2)N1 | C12H13ClF2N4O
reactant | toluenesulfonic acid monohydrate | 0.30 mmole, 0.0571 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | 4-amino-N-(1-ethyl-piperidin-4-yl)-3-methoxy-benzamide | 0.20 mmole, 0.0555 g | NC1=C(C=C(C(=O)NC2CCN(CC2)CC)C=C1)OC | C15H23N3O2
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
product | 4-(9-cyclobutyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-ethyl-piperidin-4-yl)-3-methoxy-benzamide | 0.0452 g | C1(CCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)CC)C=C2)OC | C27H35F2N7O3
